US07737166B2
2-tert-Butyl-4-fluoro-6-methyl-5-phenyl-1,3-benzoxazole-7-carbonitrile (I-239)
N-(5-Cyano-2-fluoro-4-hydroxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide (I-238) (124 mg, 0.38 mol) was dissolved in toluene (5 ml), and at room temperature, paratoluenesulfonic acid monohydrate (20 mg, 0.11 mmol) was added. The reaction liquid was heated under reflux under nitrogen atmosphere for 4.5 hours. After cooling to room temperature, the solution was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was separated, this was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=9:1) to obtain the entitled compound (106 mg, 90%) as a white solid.

reactant | N-(5-Cyano-2-fluoro-4-hydroxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide | 0.38 mol, 124 mg | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)NC(C(C)(C)C)=O)O | C19H19FN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-tert-Butyl-4-fluoro-6-methyl-5-phenyl-1,3-benzoxazole-7-carbonitrile | 106 mg, 90% | C(C)(C)(C)C=1OC2=C(N1)C(=C(C(=C2C#N)C)C2=CC=CC=C2)F | C19H17FN2O
